US07012075B2
To an ice cold solution of 2-[(4-bromophenyl)thio]-3-(1-methylcyclopropyl)propanoic acid (417 mg, 1.3 mmol), HATU (652 mg, 1.7 mmol), 2-aminoacetonitrile hydrochloride (171 mg, 1.8 mmol) in DMF (5 mL) was added N,N-diisopropylethylamine (0.68 mL, 3.9 mmol) dropwise. The resulting mixture was stirred at room temperature for 18 h and partitioned between EtOAc and water. The organic layer was dried over Na2SO4 and concentrated in vacuo. The crude product was purified by flash chromatography using EtOAc in hexane to afford 2-[(4-bromophenyl)thio]-N-(cyanomethyl)-3-(1-methylcyclopropyl)propanamide.

reactant | 2-[(4-bromophenyl)thio]-3-(1-methylcyclopropyl)propanoic acid | 1.3 mmol, 417 mg | BrC1=CC=C(C=C1)SC(C(=O)O)CC1(CC1)C | C13H15BrO2S
reactant | HATU | 1.7 mmol, 652 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-aminoacetonitrile hydrochloride | 1.8 mmol, 171 mg | Cl.NCC#N
reactant | N,N-diisopropylethylamine | 3.9 mmol, 0.68 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-[(4-bromophenyl)thio]-N-(cyanomethyl)-3-(1-methylcyclopropyl)propanamide | BrC1=CC=C(C=C1)SC(C(=O)NCC#N)CC1(CC1)C | C15H17BrN2OS
